US08198269B2
(9) Synthesis of [(4aR,6R,8aS)-2-amino-8a-(2-fluoro-5-nitrophenyl)-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-6-yl]methanol
Concentrated sulfuric acid (2.5 ml) was added dropwise to a solution of [(4aR,6R,8aS)-2-amino-8a-(2-fluorophenyl)-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-6-yl]methanol (700 mg) in TFA (5 ml) in an ice bath. Then, fuming nitric acid (specific gravity: 1.52, 103 μl) was added dropwise at the same temperature, followed by stirring for one hour. The reaction mixture was poured into ice and made basic with a 5 N sodium hydroxide solution, followed by stirring at room temperature for two hours. The aqueous layer was extracted with dichloromethane, and the organic layer was dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to obtain the title compound (1.0 g).

reactant | sulfuric acid | 2.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | [(4aR,6R,8aS)-2-amino-8a-(2-fluorophenyl)-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-6-yl]methanol | 700 mg | NC1=N[C@]2(CO[C@H](C[C@H]2CS1)CO)C1=C(C=CC=C1)F | C14H17FN2O2S
reactant | nitric acid | 103 μl | [N+](=O)(O)[O-] | HNO3
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
solvent | TFA | 5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | [(4aR,6R,8aS)-2-amino-8a-(2-fluoro-5-nitrophenyl)-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-6-yl]methanol | 1.0 g | NC1=N[C@]2(CO[C@H](C[C@H]2CS1)CO)C1=C(C=CC(=C1)[N+](=O)[O-])F | C14H16FN3O4S
